US07423159B2
A mixture of 5,6-dimethyl-1-(4-nitrobenzyl)-1H-benzimidazole (2.5 g), 10% palladium carbon (300 mg), ethanol (150 ml) and tetrahydrofuran (150 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. Recrystallization of the residue from ethyl acetate-methanol gave 1-(4-aminobenzyl)-5,6-dimethyl-1H-benzimidazole (1.88 g, 84%) as colorless prism crystals. melting point: 238-239° C.

reactant | 5,6-dimethyl-1-(4-nitrobenzyl)-1H-benzimidazole | 2.5 g | CC1=CC2=C(N(C=N2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1C | C16H15N3O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium carbon | 300 mg | [C].[Pd]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-aminobenzyl)-5,6-dimethyl-1H-benzimidazole | 1.88 g, 84% | NC1=CC=C(CN2C=NC3=C2C=C(C(=C3)C)C)C=C1 | C16H17N3
